US06333336B1
b) Ethyl 3-benzyl-1,4-dihydro-4-oxo-5-pyridinecarboxylate
To a solution of sodium (0.5835 g, 25.4 mmol) in ethanol (18 ml) under nitrogen, was added ethyl 3-oxo-5-phenylpentanoate (5.5752 g, 25.3 mmol) in ethanol (5 ml) and 1,3,5-triazine (2.0544 g, 25.3 mmol). The mixture was heated at reflux for 1 h, then allowed to cool. The solvent was removed in vacuo, and water (15 ml) was added to the residue. The pH was brought to 4 by the addition of concd HCl (3 ml) and the mixture was left overnight. The resulting solid was collected by filtration, washed with ethanol and dried under vacuum at 60° C. to yield 4.6324 g (71%) of the title compound as a buff solid; 1H NMR (360 MHz, DMSO-d6) δ1.24 (3H, t, J 7.1 Hz), 3.64 (2H, s), 4.16 (2H, q, J 7.1 Hz), 7.15-7.28 (5H, m), 7.53 (1H, s), 8.18 (1H, s), 11.64 (1H, br s).

reactant | sodium | 25.4 mmol, 0.5835 g | [Na] | Na
reactant | ethyl 3-oxo-5-phenylpentanoate | 25.3 mmol, 5.5752 g | O=C(CC(=O)OCC)CCC1=CC=CC=C1 | C13H16O3
reactant | 1,3,5-triazine | 25.3 mmol, 2.0544 g | N1=CN=CN=C1 | C3H3N3
solvent | ethanol | 18 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | Ethyl 3-benzyl-1,4-dihydro-4-oxo-5-pyridinecarboxylate | 4.6324 g, 71% | C(C1=CC=CC=C1)C1=CNC=C(C1=O)C(=O)OCC | C15H15NO3
